US07323460B2
Step 4: Tert-butyl 4-fluoro-2-iodobenzylcarbamate
Triethylamine (1.41 mL, 10.1 mmol) was added to a 0° C. suspension of 1-(4-fluoro-2-iodophenyl)methanamine (2.30 g, 9.16 mmol) and di-tert-butyl dicarbonate (2.20 g, 10.1 mmol) in dry methylene chloride (60 mL). The homogeneous solution was stirred at 0° C. for five minutes then at room temperature for two hours. The reaction was diluted with methylene chloride (30 mL), washed with water three times and washed once with brine. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo to a clear oil. The residue was purified by flash column chromatography (ISCO column, 110 g silica gel) eluting with a 10-25% ethyl acetate/hexane gradient over 30 minutes to afford the desired product as a clear oil.

reactant | Triethylamine | 10.1 mmol, 1.41 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(4-fluoro-2-iodophenyl)methanamine | 9.16 mmol, 2.30 g | FC1=CC(=C(C=C1)CN)I | C7H7FIN
reactant | di-tert-butyl dicarbonate | 10.1 mmol, 2.20 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | Tert-butyl 4-fluoro-2-iodobenzylcarbamate | FC1=CC(=C(CNC(OC(C)(C)C)=O)C=C1)I | C12H15FINO2
